US05712267
(2S,4S)-4-Mercapto-2-[4-(N-4-nitrobenzyloxycarbonyl-acetimidoyl) aminopiperidin-1-ylcarbonyl)-1-(4-nitro-benzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 1, but using 446 mg of (2S,4S)-4-(4-methoxy-benzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidine-carboxylic acid, 220 mg of 4-t-butoxycarbonylamino-piperidine and 119 mg of N-(4-nitrobenzyloxycarbonyl)-acetamidine, 307 mg of the title compound were obtained as a powder.

reactant | (2S,4S)-4-(4-methoxy-benzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidine-carboxylic acid | 446 mg | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 4-t-butoxycarbonylamino-piperidine | 220 mg | C(C)(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | N-(4-nitrobenzyloxycarbonyl)-acetamidine | 119 mg | [N+](=O)([O-])C1=CC=C(COC(=O)NC(C)=N)C=C1 | C10H11N3O4
product | (2S,4S)-4-Mercapto-2-[4-(N-4-nitrobenzyloxycarbonyl-acetimidoyl) aminopiperidin-1-ylcarbonyl)-1-(4-nitro-benzyloxycarbonyl)pyrrolidine | 307 mg | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCC(CC1)NC(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C28H32N6O9S
